### PR TITLE
zeta_pow_four_eq

### LINKED ISSUE #1243: [IK]: Easy corollary: `zeta_pow_four_eq`
## Description

Prove `zeta_pow_four_eq`

## Blueprint

https://alexkontorovich.github.io/PrimeNumberTheoremAnd/blueprint/IK-chapter.html#zeta_pow_four_eq

## Zulip

TBA

### PR DESCRIPTION
**Pull request by VaishnavVenkat**
Proved zeta_pow_four_eq. closes #1243

### CODE REVIEW

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean [hunk 1]
```diff
@@ -454,7 +454,15 @@ theorem zeta_mul_zeta_mul_zeta_mul_zeta_eq (α β s : ℂ) (h1 : 1 < s.re) (h2 :
...
-  sorry
+  have h := zeta_mul_zeta_mul_zeta_mul_zeta_eq 0 0 s hs h2 h3 h4
+  simp only [sub_zero] at h
+  have sigma_zero_eq_tau : ∀ n, σᴿ (0 : ℂ) n * σᴿ (0 : ℂ) n = (↑(τ n) : ℂ) ^ 2 := by
+    intro n
+    suffices σᴿ (0 : ℂ) n = (↑(τ n) : ℂ) by rw [this]; ring
+    simp only [sigmaR, tau, sigma, coe_mk, Complex.cpow_zero, pow_zero]
+    push_cast; rfl
+  simp only [sigma_zero_eq_tau] at h
+  linear_combination h
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]:
```suggestion
  convert (zeta_mul_zeta_mul_zeta_mul_zeta_eq 0 0 s hs h2 h3 h4) using 1
  · ring_nf
  · congr
    · ring_nf
    · simp [tau, sigma, sigmaR, pow_two]
```

**Review by AlexKontorovich — APPROVED** [review]
Thanks!
